US06287646B1
A 20 g portion of sodium borohydride was suspended (partially dissolved) in 80 ml of ethanol, and 380 ml of ethanol solution containing 125 g of 3,5-difluorobenzaldehyde to the suspension which was cooled in an ice bath. After the dropwise addition, this was stirred for 1 hour, the solvent was evaporated and the resulting residue was mixed with 400 ml of water. This was extracted with 700 ml of ethyl acetate, washed with water and saturated brine in that order and then dried with anhydrous sodium sulfate. By evaporating the solvent, 120 g of 3,5-difluorobenzyl alcohol was obtained.

reactant | sodium borohydride | [BH4-].[Na+]
reactant | 3,5-difluorobenzaldehyde | 125 g | FC=1C=C(C=O)C=C(C1)F | C7H4F2O
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | ethanol | 380 ml | C(C)O | C2H6O
product | 3,5-difluorobenzyl alcohol | 120 g | FC=1C=C(CO)C=C(C1)F | C7H6F2O
